US05308857
A solution of 4N-hydrogenchloride in 1,4-dioxane (2.2 ml) was added to a mixture of 4-[5-(2-amino-2-aminosulfonyliminoethyl)furan-2-yl]-2-(diaminomethyleneamino)thiazole (3.0 g) in methanol (60 ml) and the mixture was stirred at ambient temeprature for 4 hours. To a mixture was added a diisopropyl ether (30 ml) and the isolated precipitate was collected by filtration. The precipitate was recrystallized from an aqueous ethanol to give 4-[5-(2-amino-2-aminosulfonyliminoethyl)furan-2-yl]-2-(diaminomethyleneamino)thiazole hydrochloride (2.17 g).

reactant | hydrogenchloride | Cl | ClH
reactant | 4-[5-(2-amino-2-aminosulfonyliminoethyl)furan-2-yl]-2-(diaminomethyleneamino)thiazole | 3.0 g | NC(CC1=CC=C(O1)C=1N=C(SC1)N=C(N)N)=NS(=O)(=O)N | C10H13N7O3S2
reactant | diisopropyl ether | 30 ml | C(C)(C)OC(C)C | C6H14O
solvent | 1,4-dioxane | 2.2 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 60 ml | CO | CH4O
product | 4-[5-(2-amino-2-aminosulfonyliminoethyl)furan-2-yl]-2-(diaminomethyleneamino)thiazole hydrochloride | 2.17 g | Cl.NC(CC1=CC=C(O1)C=1N=C(SC1)N=C(N)N)=NS(=O)(=O)N | InChI=1S/C10H13N7O3S2.ClH/c11-8(17-22(14,18)19)3-5-1-2-7(20-5)6-4-21-10(15-6)16-9(12)13;/h1-2,4H,3H2,(H2,11,17)(H2,14,18,19)(H4,12,13,15,16);1H
